US07101899B1
2-(2-amino-4-pyridyl)-2-bromo-1-(3-methylphenyl)ethanone hydrobromide
Bromine (3.2 mL, 62 mol) was added to a solution of 2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(3-methylphenyl)ethanone (20 g, 61 mmol) in acetic acid (60 mL) and the mixture was stirred at 80° C. for 2 hours. After the reaction mixture was cooled to room temperature, the precipitate was filtered to obtain 19 g (yield 81%) of the title compound.

reactant | Bromine | 62 mol, 3.2 mL | BrBr | Br2
reactant | 2-(2-tert-butoxycarbonylamino-4-pyridyl)-1-(3-methylphenyl)ethanone | 61 mmol, 20 g | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CC(=O)C1=CC(=CC=C1)C | C19H22N2O3
solvent | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 2-(2-amino-4-pyridyl)-2-bromo-1-(3-methylphenyl)ethanone hydrobromide | 19 g, yield 81% | Br.NC1=NC=CC(=C1)C(C(=O)C1=CC(=CC=C1)C)Br | InChI=1S/C14H13BrN2O.BrH/c1-9-3-2-4-11(7-9)14(18)13(15)10-5-6-17-12(16)8-10;/h2-8,13H,1H3,(H2,16,17);1H
